### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/QuadraticForm): radical of a quadratic form

### PR DESCRIPTION
**Pull request by loefflerd**
Define the radical of a quadratic form, and show that its dimension is invariant under equivalences.

---
This is a step on the way to Sylvester's law of inertia (#34204).

- [x] depends on: #34110

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Basis/Basic.lean [hunk 1]
```diff
@@ -87,6 +87,8 @@ protected theorem linearIndependent : LinearIndependent R b :=
   fun x y hxy => by
     rw [← b.repr_linearCombination x, hxy, b.repr_linearCombination y]
 
+protected lemma linearIndepOn {s : Set ι} : LinearIndepOn R b s := b.linearIndependent.linearIndepOn
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Basis/Basic.lean]:
```suggestion
protected lemma linearIndepOn (s : Set ι) : LinearIndepOn R b s := b.linearIndependent.linearIndepOn
```
Seems reasonable.

File: Mathlib/LinearAlgebra/QuadraticForm/Radical.lean [hunk 2]
```diff
@@ -0,0 +1,193 @@
...
+
+variable {R M M' P : Type*} [AddCommGroup M] [AddCommGroup M'] [AddCommGroup P]
+  [CommRing R] [Module R M] [Module R M'] [Module R P] (Q : QuadraticMap R M P)
+
+/-- The radical of a quadratic form `Q` on `M`.
+
+This is the largest submodule `N` such that `Q` lifts to a quadratic form on `M ⧸ N`; see
+`Submodule.le_radical_iff` for this characterization.
+
+See also Elman-Karpenko-Merkurjev, Chapter II, §7. -/
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/QuadraticForm/Radical.lean]: Can you use the bibtex entry?

File: Mathlib/LinearAlgebra/QuadraticForm/Radical.lean [hunk 3]
```diff
@@ -0,0 +1,193 @@
...
+lemma mem_radical_iff' {m : M} :
+    m ∈ Q.radical ↔ Q m = 0 ∧ ∀ n : M, Q (m + n) = Q n := by
+  simp +contextual [radical, QuadraticMap.polarBilin, LinearMap.ext_iff,
+    QuadraticMap.polar, sub_sub, sub_eq_zero]
+
+/-- The radical of a quadratic form is preserved by isometry equivalences. -/
+@[simp] lemma IsometryEquiv.map_radical {Q' : QuadraticMap R M' P}
+    (e : IsometryEquiv Q Q') : Q.radical.map e.toLinearMap = Q'.radical := by
+  ext x
+  simp only [Submodule.mem_map_equiv, coe_symm_toLinearEquiv, coe_toLinearEquiv,
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/QuadraticForm/Radical.lean]: Is it possible to unsqueeze the simp?

File: Mathlib/LinearAlgebra/QuadraticForm/Radical.lean [hunk 4]
```diff
@@ -0,0 +1,193 @@
...
+-/
+structure Nondegenerate : Prop where
+  radical_eq_bot : Q.radical = ⊥
+  rank_rad_polar_le : Module.rank R Q.polarBilin.ker ≤ 1
+
+section InvertibleTwo
+
+variable [Invertible (2 : R)]
+
+/-- If 2 is invertible in the coefficient ring, the radical of a quadratic map is the kernel of its
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/QuadraticForm/Radical.lean]:
```suggestion
/-- If `2` is invertible in the coefficient ring, the radical of a quadratic map is the kernel of its
```

File: Mathlib/LinearAlgebra/QuadraticForm/Radical.lean [hunk 5]
```diff
@@ -0,0 +1,193 @@
...
+  ext m
+  simp only [mem_radical_iff', LinearMap.mem_ker, LinearMap.ext_iff, LinearMap.zero_apply,
+    QuadraticMap.polarBilin_apply_apply, QuadraticMap.polar]
+  refine ⟨by simp +contextual, fun h ↦ ?_⟩
+  suffices Q m = 0 by grind
+  specialize h m
+  rwa [← two_smul R, QuadraticMap.map_smul, sub_sub, ← two_smul R, mul_smul, ← smul_sub,
+    (isUnit_of_invertible 2).smul_eq_zero, two_smul, add_sub_cancel_right] at h
+
+/-- If 2 is invertible in the coefficient ring, the radical of a quadratic map is the kernel of its
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/QuadraticForm/Radical.lean]:
```suggestion
/-- If `2` is invertible in the coefficient ring, the radical of a quadratic map is the kernel of its
```

File: Mathlib/LinearAlgebra/QuadraticForm/Radical.lean [hunk 6]
```diff
@@ -0,0 +1,193 @@
...
+/-- In characteristic `≠ 2`, a quadratic map is nondegenerate iff its radical is 0. (Use
+`QuadraticMap.Nondegenerate.radical_eq_bot` for the one-way implication in all characteristics.) -/
+lemma nondegenerate_iff_radical_eq_bot :
+    Q.Nondegenerate ↔ Q.radical = ⊥ := by
+  refine ⟨Nondegenerate.radical_eq_bot, fun h ↦ ⟨h, ?_⟩⟩
+  rw [← QuadraticMap.radical_eq_ker_polarBilin, h]
+  nontriviality R
+  simp only [rank_subsingleton', zero_le]
+
+/-- In characteristic `≠ 2`, a quadratic map is nondegenerate iff its associated bilinear map
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/QuadraticForm/Radical.lean]:
```suggestion
/-- In characteristic different from `2`, a quadratic map is nondegenerate iff its associated bilinear map
```
If you like.

File: Mathlib/LinearAlgebra/QuadraticForm/Radical.lean [hunk 7]
```diff
@@ -0,0 +1,193 @@
...
+is nondegenerate. -/
+lemma nondegenerate_associated_iff :
+    (QuadraticMap.associated Q).Nondegenerate ↔ Q.Nondegenerate := by
+  rw [nondegenerate_iff_radical_eq_bot, radical_eq_ker_associated,
+    LinearMap.IsRefl.nondegenerate_iff_separatingLeft, LinearMap.separatingLeft_iff_ker_eq_bot]
+  exact fun x y ↦ (congr_arg (· x y) (associated_flip R Q)).trans
+
+/-- In characteristic `≠ 2`, a quadratic map is nondegenerate iff its polar bilinear map
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/QuadraticForm/Radical.lean]: Same as above.

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+
